US09023864B2
Step 1: Diethyl 4,4-diethoxyheptanedioate (“ketal”)
To EtOH (27.8 L), triethyl orthoformate (9.26 L, 55.6 mol) and diethyl 4-oxopimelate (5.93 L, 27.8 mol) was added p-toluenesulfonic acid monohydrate (0.053 kg, 0.278 mol), and the reaction mixture was heated to 77.0° C. with stirring for 20 h. Heating was discontinued, and ethanol was removed by distillation under vacuum, starting with the batch at 63° C. The remaining orange ketal solution was dissolved in toluene (32 L) and transferred to a 100-L extractor that had been charged with 2% NaHCO3 (24 L), with stirring.

reactant | triethyl orthoformate | 55.6 mol, 9.26 L | C(OCC)(OCC)OCC | C7H16O3
reactant | diethyl 4-oxopimelate | 27.8 mol, 5.93 L | O=C(CCC(=O)OCC)CCC(=O)OCC | C11H18O5
reactant | p-toluenesulfonic acid monohydrate | 0.278 mol, 0.053 kg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | EtOH | 27.8 L | CCO | C2H6O
product | Diethyl 4,4-diethoxyheptanedioate | C(C)OC(CCC(=O)OCC)(CCC(=O)OCC)OCC | C15H28O6
